US04255442
ETHYL 6-BROMO-5-CHLORO-3-(2-FLUOROPHENYL)INDOLE-2-CARBOXYLATE
Add 1.0 ml of bromine to 4.6 g of ethyl 5-chloro-3-(2-fluorophenyl)indole-2-carboxylate in 250 ml of glacial acetic acid. Stir for 16 hours at room temperature, add water and collect the precipitate. Ws the precipitate with warm methanol. Collect the dry ethyl 6-bromo-5-chloro-3-(2-fluorophenyl)indole-2-carboxylate, m.p. 193°-194°.

reactant | bromine | 1.0 ml | BrBr | Br2
reactant | ethyl 5-chloro-3-(2-fluorophenyl)indole-2-carboxylate | 4.6 g | ClC=1C=C2C(=C(NC2=CC1)C(=O)OCC)C1=C(C=CC=C1)F | C17H13ClFNO2
reactant | water | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | ETHYL 6-BROMO-5-CHLORO-3-(2-FLUOROPHENYL)INDOLE-2-CARBOXYLATE | BrC1=C(C=C2C(=C(NC2=C1)C(=O)OCC)C1=C(C=CC=C1)F)Cl | C17H12BrClFNO2
